US07781478B2
Preparation of [3-cyano-2-(4-ethoxyphenyl)-1-ethyl-1H-indol-6-yl]-carbamic acid ethyl ester (Compound 838)
6-Amino-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile (31 mg, 0.1 mmol), compound 833, prepared in example 1BR, step B is treated with ethyl chloroformate (16 mg, 0.15 mmol) in pyridine (1.0 mL) at room temperature overnight to furnish, after purification using column chromatography [3-cyano-2-(4-ethoxyphenyl)-1-ethyl-1H-indol-6-yl]-carbamic acid ethyl ester (30 mg, 79%).

reactant | 6-Amino-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile | 0.1 mmol, 31 mg | NC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N | C19H19N3O
reactant | ethyl chloroformate | 0.15 mmol, 16 mg | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | [3-cyano-2-(4-ethoxyphenyl)-1-ethyl-1H-indol-6-yl]-carbamic acid ethyl ester | C(C)OC(NC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N)=O | C22H23N3O3
